US08076515B2
4-(2-Fluorobenzyloxy)benzaldehyde is prepared by alkylation of 4-hydroxybenzaldehyde (0.39 g) with 2-fluorobenzyl chloride by following the same procedure of Example 1, but using three different phase transfer catalysts.

reactant | 4-hydroxybenzaldehyde | 0.39 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | 2-fluorobenzyl chloride | FC1=C(CCl)C=CC=C1 | C7H6ClF
product | 4-(2-Fluorobenzyloxy)benzaldehyde | FC1=C(COC2=CC=C(C=O)C=C2)C=CC=C1 | C14H11FO2
